US06900353B2
Preparation of [2-fluoro-2-(4-(2-[(methylsulfonyl)amino]ethoxy}phenyl)cyclohexyl][(methylethyl)sulfonyl]amine
The title compound was prepared in a manner analogous to the procedure set forth in Example 59 from [2-hydroxy-2-(4-{2-[(methylsulfonyl)amino]ethoxy}phenyl)cyclohexyl][(methylethyl)sulfonyl]amine (155 mg, 0.36 mmol) and DAST (0.01 mL) to provide a cis/trans mixture of the title compounds (141 mg) as a foam. This material was separated and purified via silica gel chromatography employing the Chromatotron® and using a 4000 micron rotor while eluting with a solvent of methylene chloride/ethyl acetate 4:1 to yield the trans isomer of the title compound (80 mg, top spot by TLC) as a white solid. Ion spray M.S. 435.3 (M*−1) Calculated for C18H29N2O5S2F-½H2O: Theory: C 47.55, H 6.84, N 6.16. Found: C 47.58, H 6.89, N 5.65. Continued elution afforded a cis/trans mixture (61 mg) as a foam. Fd M.S. 435.3 (M*−1). Calculated for C18H29N2O5S2F-½H2O: Theory: C 49.52, H 6.70, N 6.42. Found: C 49.17, H 6.64, N 6.22.

reactant | [2-hydroxy-2-(4-{2-[(methylsulfonyl)amino]ethoxy}phenyl)cyclohexyl][(methylethyl)sulfonyl]amine | 0.36 mmol, 155 mg | OC1(C(CCCC1)NS(=O)(=O)C(C)C)C1=CC=C(C=C1)OCCNS(=O)(=O)C | C18H30N2O6S2
reactant | DAST | 0.01 mL | CCN(CC)S(F)(F)F | C4H10F3NS
product | [2-fluoro-2-(4-(2-[(methylsulfonyl)amino]ethoxy}phenyl)cyclohexyl][(methylethyl)sulfonyl]amine | 80 mg | FC1(C(CCCC1)NS(=O)(=O)C(C)C)C1=CC=C(C=C1)OCCNS(=O)(=O)C | C18H29FN2O5S2
